US06949542B2
3-{3-[2-(2-Methoxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-[2-(2-methoxy-ethylamino)-6-methyl-pyrimidin-4-yl]-benzoic acid methyl ester [prepared by the following procedure: 3-(2-Chloro-6-methyl-pyrimidin-4-yl)-benzoic acid (1.49 g, 6 mmol) was heated in 2-methoxy-ethylamine (5.2 ml) to 80° C. for 2.5 h. The mixture was evaporated in vacuum and the residual oil was stirred in 1N HCl-MeOH (20 ml) for 18 h at 40° C. to give the methyl ester as light yellow solid (1.29 g).] (1.29 g, 4.3 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (1.44 g).

reactant | 3-[2-(2-methoxy-ethylamino)-6-methyl-pyrimidin-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC(=NC(=C1)C)NCCOC)=O | C16H19N3O3
reactant | 3-(2-Chloro-6-methyl-pyrimidin-4-yl)-benzoic acid | 6 mmol, 1.49 g | ClC1=NC(=CC(=N1)C=1C=C(C(=O)O)C=CC1)C | C12H9ClN2O2
solvent | 2-methoxy-ethylamine | 5.2 ml | COCCN | C3H9NO
product | 3-{3-[2-(2-Methoxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC(=C1)C)NCCOC)=O | C21H27N3O4
